US03952067
β,β-Dichloro-α-(3-chloro-4-cyclohexylphenyl)ethanol (67.5 g.; 0.22 moles) is heated with thionyl chloride (110 ml) containing 1 drop of pyridine until solution is obtained. The heating is discontinued and the reaction is allowed to proceed at room temperature for 12 hours. The reaction mixture is heated for an additional hour and the thionyl chloride removed, chased by benzene several times and distilled to give β,β,α,3-tetrachloro-4-cyclohexylphenylethane.

reactant | β,β-Dichloro-α-(3-chloro-4-cyclohexylphenyl)ethanol | 0.22 moles, 67.5 g | ClC(C(O)C1=CC(=C(C=C1)C1CCCCC1)Cl)Cl | C14H17Cl3O
reactant | thionyl chloride | 110 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 1 drop | N1=CC=CC=C1 | C5H5N
product | β,β,α,3-tetrachloro-4-cyclohexylphenylethane | ClC(C(Cl)C1=CC(=C(C=C1)C1CCCCC1)Cl)Cl | C14H16Cl4
